US07589206B2
d) 1-Methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester
A mixture of 2-(2-amino-1-methoxycarbonyl-vinyl)-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester (3.3 g), sodium tert-butoxide (0.267 g) and dimethylformamide (22 ml) was split equally between 2×20 ml sealed vessels and irradiated with microwaves at 160° C. for 5 minutes. The cooled solutions were combined and added slowly to ice water and stirred for 10 minutes. A precipitate formed which was filtered off and dried to yield the title compound as a white solid (1.12 g). The aqueous filtrate was extracted three times with ethyl acetate and the combined organics were washed with saturated brine solution. The dried (Na2SO4) organic layer was evaporated to yield a yellow oil which was triturated with warm isopropyl alcohol to yield the title compound as a white solid (0.66 g). Total product weight (1.78 g).

reactant | 2-(2-amino-1-methoxycarbonyl-vinyl)-1-methyl-1H-pyrrole-3-carboxylic acid methyl ester | 3.3 g | COC(=O)C1=C(N(C=C1)C)C(=CN)C(=O)OC | C11H14N2O4
reactant | sodium tert-butoxide | 0.267 g | CC(C)([O-])C.[Na+]
solvent | dimethylformamide | 22 ml | CN(C=O)C | C3H7NO
product | 1-Methyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylic acid methyl ester | 1.12 g | COC(=O)C=1C2=C(C(NC1)=O)C=CN2C | C10H10N2O3
